US08461149B2
Step 2: (R)-methyl 1-((3,3-difluorocyclopentylamino)methyl)cyclopropanecarboxylate
Methyl 1-formylcyclopropanecarboxylate (45% w/w, 3.205 g, 11.26 mmol) and (R)-3,3-difluorocyclopentanamine hydrochloride (1.774 g, 11.26 mmol) were dissolved in dichloromethane (20 mL) at 0° C. under nitrogen. To this solution was added sodium acetate (0.923 g, 11.26 mmol) followed by sodium triacetoxyborohydride (3.46 g, 16.32 mmol). The reaction mixture was allowed to warm up to room temperature overnight. The reaction mixture was quenched with a saturated aqueous solution of sodium bicarbonate and stirred at room temperature for a further 10 minutes. The aqueous layer was extracted 3 times with dichloromethane. The combined organic layers were washed with brine, dried over magnesium sulfate and concentrated under vacuo. The residue was purified on silica gel by flash column chromatography to give the required compound (2.631 g, quantitative yield).

reactant | Methyl 1-formylcyclopropanecarboxylate | 11.26 mmol, 3.205 g | C(=O)C1(CC1)C(=O)OC | C6H8O3
reactant | (R)-3,3-difluorocyclopentanamine hydrochloride | 11.26 mmol, 1.774 g | Cl.FC1(C[C@@H](CC1)N)F
reactant | sodium acetate | 11.26 mmol, 0.923 g | C(C)(=O)[O-].[Na+]
reactant | sodium triacetoxyborohydride | 16.32 mmol, 3.46 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | (R)-methyl 1-((3,3-difluorocyclopentylamino)methyl)cyclopropanecarboxylate | 2.631 g, quantitative yield | FC1(C[C@@H](CC1)NCC1(CC1)C(=O)OC)F | C11H17F2NO2
